US07687508B2
A sample of benzyl (1S,2S,4R)-2-(azidomethyl)-4-methoxycyclohexylcarbamate (4.7 g, 14.76 mmol) was dissolved in THF at room temperature prior to the addition of water (0.293 ml, 16.24 mmol) and triphenylphosphine (4.26 g, 16.24 mmol). The reaction was stirred at 60° C. for 4 h. It was then cooled and treated with a saturated aqueous solution of Na2CO3 (3.13 g, 29.5 mmol) followed by di-t-butyldicarbonate (3.77 ml, 16.24 mmol). The reaction mixture was stirred overnight at room temperature. It was partitioned between EtOAc and water. The organic layer was washed with brine and dried over anhydrous MgSO4. The solution was concentrated and chromatographed (500 ml silica gel eluted with 30% EtOAc/hexane). The desired tert-butyl ((1S,2S,5R)-2-benzyloxycarbonylamino-5-methoxycyclohexyl)methylcarbamate was obtained as a viscous oil. LC/MS found [M−Boc+H]+=293.25.

reactant | benzyl (1S,2S,4R)-2-(azidomethyl)-4-methoxycyclohexylcarbamate | 14.76 mmol, 4.7 g | N(=[N+]=[N-])C[C@H]1[C@H](CC[C@H](C1)OC)NC(OCC1=CC=CC=C1)=O | C16H22N4O3
reactant | water | 16.24 mmol, 0.293 ml | O | H2O
reactant | triphenylphosphine | 16.24 mmol, 4.26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Na2CO3 | 29.5 mmol, 3.13 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | di-t-butyldicarbonate | 16.24 mmol, 3.77 ml | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | C1CCOC1 | C4H8O
product | tert-butyl ((1S,2S,5R)-2-benzyloxycarbonylamino-5-methoxycyclohexyl)methylcarbamate | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H](C[C@@H](CC1)OC)CNC(OC(C)(C)C)=O | C21H32N2O5
